US05597832
1a. 1.2-Dihydro-6.7-dimethoxynaphthalene
To a solution of 5.01 g (24.3 mmol) of 6,7-dimethoxy-1-tetralone (Aldrich Chemical Co.) in 100 mL of ethanol was added 0.932 g (24.6 mmol) of NaBH4, and the mixture was stirred for 14 hours at room temperature. Most of the solvent was removed by evaporation, and to the residue was added 150 mL of methylene chloride and 50 mL of water. The aqueous layer was separated and reextracted with methylene chloride, then the organic extracts were combined and washed with brine, dried over MgSO4, and concentrated to leave an orange oily residue. The crude intermediate product was dissolved in 100 mL of refluxing toluene, to which was added 48 mg of p-toluenesulfonic acid, and the solution was heated at reflux for 30 min. The reaction was cooled to room temperature and 50 mL of water was added. The aqueous layer was extracted with ethyl acetate, and the organic extracts were combined, washed with brine, dried over MgSO4, and concentrated to leave an orange oil. This was dissolved in methylene chloride, which was washed with saturated sodium bicarbonate solution, water, dried and concentrated to afford 4.34 g of the title product (94% yield). NMR (CDCl3) δ:6.67 (s, 1H), 6.60 (s, 1H), 6.38 (d, 1H, J=10 Hz), 5.94(dt, 1H, J=4 Hz, J=10 Hz), 3.88 (s, 3H), 3.86 (s, 3H), 2.73 (t, 2H, J=8 Hz), 2.32-2.24 (m, 2H).

reactant | 6,7-dimethoxy-1-tetralone | 24.3 mmol, 5.01 g | COC=1C=C2CCCC(C2=CC1OC)=O | C12H14O3
reactant | NaBH4 | 24.6 mmol, 0.932 g | [BH4-].[Na+]
reactant | water | 50 mL | O | H2O
solvent | ethanol | 100 mL | C(C)O | C2H6O
solvent | toluene | 100 mL | C1(=CC=CC=C1)C | C7H8
solvent | methylene chloride | C(Cl)Cl | CH2Cl2
catalyst | p-toluenesulfonic acid | 48 mg | C1(=CC=C(C=C1)S(=O)(=O)O)C | C7H8O3S
product | 1.2-Dihydro-6.7-dimethoxynaphthalene | 4.34 g, 94% yield | COC=1C=C2C=CCCC2=CC1OC | C12H14O2
